US08193236B2
5-Bromo-2-methyl-benzofuran-3-one
A suspension of acetic acid 5-bromo-2-methyl-benzofuran-3-yl ester (18.9 g, 70.4 mmol) in methanol (232 mL) and a I M aqueous HCl solution (44 mL) is heated under reflux (75° C.) for 7 h. After cooling to room temperature the reaction mixture is concentrated by rotary evaporation. The residue is diluted with water and extracted three times with diethyl ether. The combined organic layers are washed with water, brine, dried over Na2SO4, filtered and concentrated at reduced pressure to afford the title compound as a yellow oil (14.7 g, 64.7 mmol, 92%). MS (ES+): 227 (M(C9H779BrO2)+H)+.

reactant | acetic acid 5-bromo-2-methyl-benzofuran-3-yl ester | 70.4 mmol, 18.9 g | BrC=1C=CC2=C(C(=C(O2)C)OC(C)=O)C1 | C11H9BrO3
reactant | HCl | 44 mL | Cl | ClH
solvent | methanol | 232 mL | CO | CH4O
product | 5-Bromo-2-methyl-benzofuran-3-one | 64.7 mmol, 14.7 g, 92% | BrC=1C=CC2=C(C(C(O2)C)=O)C1 | C9H7BrO2
